US07851072B2
Step 2: 2-bromo-3,4,5-trimethylpyridine
10.3 g (0.075 mol) of 2-amino-3,4,5-trimethylpyridine was added to 30 mL of 60% HBr. The mixture was cooled to −10 to −17° C. and pre-cooled 36.0 g (0.23 mol) bromine was added dropwise and the mixture was stirred for 20 mins. Pre-cooled (0° C.) NaNO2 solution of 13.5 g (0.19 mol) NaNO2 dissolved in 20 mL water was added dropwise into the reaction mixture at −10° C.˜−17° C. After addition, the reaction was stirred for one hour. Ice-cooled 25% NaOH solution was added slowly until the solution became basic. 200 mL of ethyl acetate was added to the mixture to extract the organic phase. The organic phase solvent was evaporated and the residue was distilled under vacuum. ˜13.1 g (87% yield) of the desired product was obtained which was confirmed by GC/MS.

reactant | 2-amino-3,4,5-trimethylpyridine | 0.075 mol, 10.3 g | NC1=NC=C(C(=C1C)C)C | C8H12N2
reactant | HBr | 30 mL | Br | BrH
reactant | bromine | 0.23 mol, 36.0 g | BrBr | Br2
reactant | NaNO2 | N(=O)[O-].[Na+]
reactant | NaNO2 | 0.19 mol, 13.5 g | N(=O)[O-].[Na+]
reactant | NaOH | [OH-].[Na+]
solvent | water | 20 mL | O | H2O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 2-bromo-3,4,5-trimethylpyridine | ˜13.1 g, 87% yield | BrC1=NC=C(C(=C1C)C)C | C8H10BrN
